US07781591B2
Addition of MeMgBr to 2-methyl-5-nitroindole followed by hydrogenation over Pd/C provided 5-amino-2,4-dimethylindole.

reactant | MeMgBr | C[Mg+].[Br-]
reactant | 2-methyl-5-nitroindole | CC=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C9H8N2O2
catalyst | Pd/C | [Pd] | Pd
product | 5-amino-2,4-dimethylindole | NC=1C(=C2C=C(NC2=CC1)C)C | C10H12N2
